US05250534
5-(5-Chlorosulphonyl-2-hydroxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one
5-(2-Hydroxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one (0.239 g, 0.00084 mol) was added, in portions, to stirred chlorosulphonic acid (3 ml) cooled to 0° C. under a nitrogen atmosphere, and the resulting deep red solution stirred at room temperature for 18 hours. The reaction mixture was then added dropwise, with care, to stirred ice/water to give a brown solid. The latter mixture was extracted with dichloromethane (3×30 ml), the combined extracts dried (Na2SO4) and filtered, and the filtrate evaporated under vacuum to give a brown solid (0.24 g, 75%), used in the next step without further purification; Rf 0.3 (silica; dichloromethane, methanol; 95:5).

reactant | 5-(2-Hydroxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one | 0.00084 mol, 0.239 g | OC1=C(C=CC=C1)C=1NC(C2=C(N1)C(=NN2C)CCC)=O | C15H16N4O2
reactant | chlorosulphonic acid | 3 ml | ClS(=O)(=O)O | ClHO3S
product | 5-(5-Chlorosulphonyl-2-hydroxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one | 0.24 g, 75% | ClS(=O)(=O)C=1C=CC(=C(C1)C=1NC(C2=C(N1)C(=NN2C)CCC)=O)O | C15H15ClN4O4S
